US06921525B2
1-Benzyl-4-chloro-5-formyl-2-(4-nitrophenyl)imidazole (Compound 7)
A mixture of 4-chloro-5-formyl-2-(4-nitrophenyl)imidazole (19.7 g, 78.3 mmol), benzyl bromide (14.5 g, 85.0 mmole) and potassium carbonate (11.7 g, 85.0 mmole) in DMF (150 ml) was heated to 110° C. for 1.5 hours. The mixture was evaporated and residue was poured into cold water and was allowed to stay overnight in the refrigerator. The tarry residue was pulverized and filtered. Yield of crude title compound: 33.4 g. The product was recrystallized from ethanol (96%, 350 ml). Yield: 14.0 g. NMR confirmed the structure of the title compound, Compound 7.

reactant | 4-chloro-5-formyl-2-(4-nitrophenyl)imidazole | 78.3 mmol, 19.7 g | ClC=1N=C(NC1C=O)C1=CC=C(C=C1)[N+](=O)[O-] | C10H6ClN3O3
reactant | benzyl bromide | 85.0 mmole, 14.5 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 85.0 mmole, 11.7 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 150 ml | CN(C)C=O | C3H7NO
product | 1-Benzyl-4-chloro-5-formyl-2-(4-nitrophenyl)imidazole | C(C1=CC=CC=C1)N1C(=NC(=C1C=O)Cl)C1=CC=C(C=C1)[N+](=O)[O-] | C17H12ClN3O3
